US05244892
2-Bromo-3-chloro-4,5-dimethoxybenzaldehyde
Into 50 ml of acetonitrile were suspended 5.39 g (20.3 mmol), of 6-bromo-5-chlorovanillin, and 3.04 ml (20.3 mmol) of 1.8-diazabicyclo[5,4,0]-7-undecene and 2.53 ml (40.6 mmol) of methyl iodide were added dropwise under cooling with ice. After stirred for 5 hours at room temperature, 3.9 ml (22.33 mmol) if diisopropylethylamine and 2.53 ml (40.6 mmol) of methyl iodide were added under cooling with ice and the mixture was stirred for 20 hours at room temperature. After distilled off the solvent, 200 ml of dichloromethane were added to the residue, which was washed with water. After dried over anhydrous magnesium sulfate, the concentrated residue was purified by means of silica gel column chromatography (hexane-AcOEt 5:1) to obtain 4.04 g (yield 71%) of title compound as colorless needle-like crystals.

reactant | 6-bromo-5-chlorovanillin | BrC1=C(C(=C(C=C1C=O)OC)O)Cl | C8H6BrClO3
reactant | 1.8-diazabicyclo[5,4,0]-7-undecene | 20.3 mmol, 3.04 ml | C1CCC2=NCCCN2CC1 | C9H16N2
reactant | methyl iodide | 40.6 mmol, 2.53 ml | CI | CH3I
reactant | diisopropylethylamine | C(C)(C)N(CC)C(C)C | C8H19N
reactant | methyl iodide | 40.6 mmol, 2.53 ml | CI | CH3I
solvent | acetonitrile | 50 ml | C(C)#N | C2H3N
product | 2-Bromo-3-chloro-4,5-dimethoxybenzaldehyde | 4.04 g, yield 71% | BrC1=C(C=O)C=C(C(=C1Cl)OC)OC | C9H8BrClO3
